US07425568B2
2-(2-Nitrophenyl)chroman-4,6-diol was prepared as described for 2-phenylchroman-4,6-diol in Example 8(a) starting from 6-hydroxy-2-(2-nitrophenyl)-chroman-4-one. 1H NMR (300 MHz, d6-DMSO) δ: 8.87 (s, 1H), 7.99-8.02 (m, 1H), 7.77-7.86 (m, 2H), 7.59-7.64 (m, 1H), 6.89 (d, 1H, J 2.4 Hz), 6.56-6.57 (m, 2H), 5.51-5.55 (m, 2H), 4.85-4.92 (m, 1H), 2.42-2.47 (m, 1H), 1.85-1.96 (m, 1H).

reactant | 2-phenylchroman-4,6-diol | C1(=CC=CC=C1)C1OC2=CC=C(C=C2C(C1)O)O | C15H14O3
reactant | 6-hydroxy-2-(2-nitrophenyl)-chroman-4-one | OC=1C=C2C(CC(OC2=CC1)C1=C(C=CC=C1)[N+](=O)[O-])=O | C15H11NO5
product | 2-(2-Nitrophenyl)chroman-4,6-diol | [N+](=O)([O-])C1=C(C=CC=C1)C1OC2=CC=C(C=C2C(C1)O)O | C15H13NO5
